* source ACTIVITY_14
R_R1         N00291 N00298  22.7m TC=0,0 
R_R2         N00298 N00325  1.84 TC=0,0 
R_R3         N00302 N00298  1.84 TC=0,0 
R_R4         N00298 N00302  1.84 TC=0,0 
R_R5         N00310 N00298  1.84 TC=0,0 
R_R6         N00298 N00310  1.84 TC=0,0 
R_R7         N00318 N00298  1.84 TC=0,0 
R_R8         N00332 N00325  9.3 TC=0,0 
R_R9         N00349 N00302  9.3 TC=0,0 
R_R10         N00364 N00310  9.3 TC=0,0 
R_R11         N00388 N00318  9.3 TC=0,0 
R_R12         N00332 N00349  114m TC=0,0 
R_R13         N00349 N00364  114m TC=0,0 
R_R14         N00364 N00388  114m TC=0,0 
R_R15         N00388 0  114m TC=0,0 
V_V1         N00291 0 1Vdc
